US03953483
In 30 ml. of ethanol are dissolved 1 g. of 3-ethoxy-6-formylandrosta-3,5-diene according to reaction (2), and while the solution is stirred at room temperature, 0.1 g. of sodium borohydride is added. After 20 minutes, the reaction mixture is poured into water and extracted with ether. Then, the extract is washed with water and dried with anhydrous sodium sulfate. Finally the solvent is concentrated, whereupon 1 g. of 3-ethoxy-6-hydroxymethylandrosta-3,5-diene is obtained as an oil.

reactant | ethanol | C(C)O | C2H6O
reactant | 3-ethoxy-6-formylandrosta-3,5-diene | C(C)OC1=CC2=C(C[C@H]3[C@@H]4CCC[C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O | C22H32O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 3-ethoxy-6-hydroxymethylandrosta-3,5-diene | C(C)OC1=CC2=C(C[C@H]3[C@@H]4CCC[C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CO | C22H34O2
